US04371537
4-((5-(methylsulfonyl)-2-pyridinyl)oxy)benzonitrile
To 3.04 g of 4-cyanophenol dissolved in a 15 ml THF/15 ml DMSO mixture was added 2.86 g of t-BuOK and then 6 g of 2,5-bis(methylsulfonyl)pyridine, and the resulting mixture heated at 60° C. for 11/2 hrs. After cooling, the reaction mixture was poured into water and the solid which formed collected. Recrystallization from acetonitrile gave purified 4-((5-(methylsulfonyl)-2-pyridinyl)oxy)benzonitrile, m.p. 195°-196° C.

reactant | 4-cyanophenol | 3.04 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | t-BuOK | 2.86 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(methylsulfonyl)pyridine | 6 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-((5-(methylsulfonyl)-2-pyridinyl)oxy)benzonitrile | CS(=O)(=O)C=1C=CC(=NC1)OC1=CC=C(C#N)C=C1 | C13H10N2O3S
